US07041685B2
(4-Chloro-benzylidene)-[5-(3-chloro-thiophen-2-yl)-[1,2,4]-oxadiazol-3-yl]-amine
N-Cyano-3-chloro-thiophene-2-carboxylic acid amide: To a solution of cyanamide (302.4 mg, 7.2 mmol) in 10% aqueous sodium hydroxide (3 mL) was added 3-chloro-thiophene-2-carbonyl chloride (1.09 g, 6 mmol) in diethyl ether (3 mL). It was stirred for 1 h and acidified with 1N HCl to give precipitates, which was collected by filtration, then washed with water to yield 807 mg (75%) of the title compound.

reactant | N-Cyano-3-chloro-thiophene-2-carboxylic acid amide | C(#N)NC(=O)C=1SC=CC1Cl | C6H3ClN2OS
reactant | cyanamide | 7.2 mmol, 302.4 mg | N#CN | CH2N2
reactant | 3-chloro-thiophene-2-carbonyl chloride | 6 mmol, 1.09 g | ClC1=C(SC=C1)C(=O)Cl | C5H2Cl2OS
reactant | HCl | 1N | Cl | ClH
reactant | diethyl ether | 3 mL | C(C)OCC | C4H10O
solvent | sodium hydroxide | 3 mL | [OH-].[Na+]
product | (4-Chloro-benzylidene)-[5-(3-chloro-thiophen-2-yl)-[1,2,4]-oxadiazol-3-yl]-amine | 807 mg, 75% | ClC1=CC=C(C=NC2=NOC(=N2)C=2SC=CC2Cl)C=C1 | C13H7Cl2N3OS
